US08314087B2
2-(2-(7-Methoxy-1,5-naphthyridin-4-ylamino)ethyl)-6-(4-methylthiophen-2-yl)pyridazin-3(2H)-one
A suspension of 2-(2-aminoethyl)-6-(4-methylthiophen-2-yl)pyridazin-3(2H)-one (360 mg, 1530 μmol) and 8-chloro-3-methoxy-1,5-naphthyridine (298 mg, 1530 μmol) in iPrOH (5 mL) was heated to 100° C. in a sealed vial. After 3 h, the reaction mixture was partitioned between CH2Cl2 (30 mL) and 1M NaOH (10 mL). The organic layer was dried over MgSO4, concentrated to a solid, and purified on 40 gram of silica eluting with 0-60% of 6% (2M NH3 in MeOH)/CH2Cl2. The resulting oil was crystallized from ACN (0.5 mL). MS (ESI pos. ion) m/z (MH+): 394. Calc'd exact mass for C20H19N5O2S: 393. 1H NMR (400 MHz, Chloroform-d) δ ppm 2.28 (s, 3 H) 3.84 (q, J=6.06 Hz, 2 H) 3.93 (s, 3 H) 4.55 (t, J=6.06 Hz, 2 H) 6.56 (d, J=5.48 Hz, 1 H) 6.93-6.98 (m, 2 H) 7.02 (t, J=5.67 Hz, 1 H) 7.16 (d, J=1.17 Hz, 1 H) 7.46 (d, J=2.74 Hz, 1 H) 7.52 (d, J=9.78 Hz, 1 H) 8.40 (d, J=2.74 Hz, 1 H) 8.46 (d, J=5.28 Hz, 1 H).

reactant | 2-(2-aminoethyl)-6-(4-methylthiophen-2-yl)pyridazin-3(2H)-one | 1530 μmol, 360 mg | NCCN1N=C(C=CC1=O)C=1SC=C(C1)C | C11H13N3OS
reactant | 8-chloro-3-methoxy-1,5-naphthyridine | 1530 μmol, 298 mg | ClC=1C=CN=C2C=C(C=NC12)OC | C9H7ClN2O
solvent | iPrOH | 5 mL | CC(C)O | C3H8O
product | 2-(2-(7-Methoxy-1,5-naphthyridin-4-ylamino)ethyl)-6-(4-methylthiophen-2-yl)pyridazin-3(2H)-one | COC1=CN=C2C(=CC=NC2=C1)NCCN1N=C(C=CC1=O)C=1SC=C(C1)C | C20H19N5O2S
